US08563541B2
Intermediate D-7: 5H-dipyrido[2,3-b: 3′,4′-f]azepine-5,6(11H)-dione 6-oxime
A solution of sodium nitrite (0.259 g, 3.75 mmol) in water (1.0 mL) was added dropwise to a solution of 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one (0.330 g, 1.56 mmol, Intermediate D-6) dissolved in acetic acid (6.0 mL). The mixture was stirred at room temperature for 90 minutes at which time a precipitate had formed. The yellow mixture was reduced to about half original volume in vacuo, and then diluted with 20 mL water and stirred for 30 minutes. A thick precipitate formed which was collected by suction filtration, washed with water and then dried in a vacuum oven at 50° C. overnight. The desired product was obtained as a yellow powder (224 mg, 60%). (2 peaks, ˜2:1 ratio of oxime isomers). 1H NMR (DMSO-d6, ˜2:1 mixture of oxime isomers): δ 12.55 & 12.32 (bs, 1H), 11.41 & 11.18 (bs, 1H), 8.67 (m, 2H), 8.54-8.25 (m, 2H), 7.56 (m, 1H), 7.27 (m, 1H). LC/MS: 241 (M+H)+

reactant | sodium nitrite | 3.75 mmol, 0.259 g | N(=O)[O-].[Na+]
reactant | 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one | 1.56 mmol, 0.330 g | N1=CC=CC2=C1NC1=C(CC2=O)C=NC=C1 | C12H9N3O
solvent | water | 1.0 mL | O | H2O
solvent | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | 5H-dipyrido[2,3-b: 3′,4′-f]azepine-5,6(11H)-dione 6-oxime | N1=CC=CC2=C1NC1=C(C(C2=O)=NO)C=NC=C1 | C12H8N4O2
